US06013607
3. Ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiin-7-carboxylate
1.0 g (3.4 mmol) of ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate are dissolved in 5 ml of nitromethane. 0.42 g (3.14 mmol) of aluminum trichloride is added. The mixture is stirred at room temperature for 45 min. Working-up is carried out by addition of 10 ml of 2N hydrochloric acid and subsequent extraction with MTB ether. The combined organic phases are washed with water and sodium carbonate solution, dried over sodium sulfate and the solvent is distilled off.

reactant | ethyl 3-(2-methylsulfonylthioethoxy)-2-methylbenzoate | 3.4 mmol, 1.0 g | CS(=O)(=O)SCCOC=1C(=C(C(=O)OCC)C=CC1)C | C13H18O5S2
reactant | aluminum trichloride | 3.14 mmol, 0.42 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
product | Ethyl 8-methyl-2,3-dihydrobenz-1,4-oxathiin-7-carboxylate | CC1=C(C=CC=2SCCOC21)C(=O)OCC | C12H14O3S
